US03981886
2-Amino-6-phenyl-1,3-bis[(2,4-dichlorophenylthio)methyl]-1H-benzimidazol-3-ium bromide
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-6-phenylbenzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 2,4-dichlorophenyl bromomethyl sulfide, the title compound is obtained.

reactant | 2-amino-6-phenylbenzimidazole | NC=1NC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C13H11N3
reactant | 2,4-dichlorophenyl bromomethyl sulfide | BrCSC1=C(C=C(C=C1)Cl)Cl | C7H5BrCl2S
product | 2-Amino-6-phenyl-1,3-bis[(2,4-dichlorophenylthio)methyl]-1H-benzimidazol-3-ium bromide | [Br-].NC1=[N+](C2=C(N1CSC1=C(C=C(C=C1)Cl)Cl)C=C(C=C2)C2=CC=CC=C2)CSC2=C(C=C(C=C2)Cl)Cl | InChI=1S/C27H19Cl4N3S2.BrH/c28-19-7-10-25(21(30)13-19)35-15-33-23-9-6-18(17-4-2-1-3-5-17)12-24(23)34(27(33)32)16-36-26-11-8-20(29)14-22(26)31;/h1-14,32H,15-16H2;1H
